US07776897B2
4-(2-Thienyl)tetrahydropyran-4-carboxylic acid was reacted with thionyl chloride and a catalytic amount of DMF in methylene chloride under heating to obtain 4-(2-thienyl)tetrahydropyran-4-carbonyl chloride. A THF solution of 4-(2-thienyl)tetrahydropyran-4-carbonyl chloride was added dropwise to a THF solution of hydrazine monohydrate and the whole was reacted at 0° C. to obtain 4-(2-thienyl)tetrahydropyran-4-carbohydrazide.

reactant | 4-(2-Thienyl)tetrahydropyran-4-carboxylic acid | S1C(=CC=C1)C1(CCOCC1)C(=O)O | C10H12O3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-thienyl)tetrahydropyran-4-carbonyl chloride | S1C(=CC=C1)C1(CCOCC1)C(=O)Cl | C10H11ClO2S
